US07183306B2
To a solution of tert-butyl{4-[3-(1-hydroxy-1-methyl-ethyl)-1-(4-methoxyphenyl)-1H-pyrazol-5-yl]benzyl}-carbamate (1.1 g) and Et3N (1.02 g) was added methane sulfonyl chloride (576 mg). The mixture was stirred at ambient temperature overnight. The mixture was concentrated in vacuo. The residue was partitioned between AcOEt and 1M HCl. The organic layer was separated, washed with saturated aqueous sodium bicarbonate solution and saturated aqueous sodium chloride solution, dried over magnesium sulfate, and concentrated in vacuo. The residue was purified by silica gel column chromatography eluted with AcOEt/n-hexane=25%. The pure fraction was collected and concentrated in vacuo to give tert-butyl {4-[3-isopropenyl-1-(4-methoxyphenyl)-1-H-pyrazol-5-yl]benzyl}carbamate (857 mg) as a solid.

reactant | tert-butyl{4-[3-(1-hydroxy-1-methyl-ethyl)-1-(4-methoxyphenyl)-1H-pyrazol-5-yl]benzyl}-carbamate | 1.1 g | C(C)(C)(C)OC(NCC1=CC=C(C=C1)C1=CC(=NN1C1=CC=C(C=C1)OC)C(C)(C)O)=O | C25H31N3O4
reactant | methane sulfonyl chloride | 576 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | Et3N | 1.02 g | CCN(CC)CC | C6H15N
product | tert-butyl {4-[3-isopropenyl-1-(4-methoxyphenyl)-1-H-pyrazol-5-yl]benzyl}carbamate | 857 mg | C(=C)(C)C1=NN(C(=C1)C1=CC=C(CNC(OC(C)(C)C)=O)C=C1)C1=CC=C(C=C1)OC | C25H29N3O3
